US07541372B2
Thiophene-3-carboxylic acid-{3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide
To a solution of 3-thiophenecarboxylic acid (162 mg, 1.26 mmol) in dichloromethane (4 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (242 mg, 1.26 mmol). After stirring for 2 min 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (400 mg, 1.15 mmol) was added and stirring was continued for 3 d at ambient temperature. The reaction mixture was extracted with aqueous HCl (1 M, 15 mL) and ethyl acetate (20 mL) and the aqueous layer was extracted with ethyl acetate (20 mL. Drying over sodium sulfate, concentration and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=60:20:20 to 0:80:20) afforded the title compound (268 mg, 51%) as a white solid. MS: m/e=459.2 [M+H]+.

reactant | 3-thiophenecarboxylic acid | 1.26 mmol, 162 mg | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.26 mmol, 242 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 1.15 mmol, 400 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | Thiophene-3-carboxylic acid-{3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide | 268 mg, 51% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NC(=O)C1=CSC=C1 | C24H18N4O4S
